US05191096
The same procedure as in Example 12 was repeated except that a barium salt of dodecanedioic acid monomethyl ester (20 mmol) was used instead of the barium salt of pentadecanedioic acid monomethyl ester, and the amount of the catalyst was 0.31 g to obtain ω-hydroxy dodecanoic acid. The yield was 37%.

reactant | dodecanedioic acid monomethyl ester | 20 mmol | COC(CCCCCCCCCCC(=O)O)=O | C13H24O4
reactant | pentadecanedioic acid monomethyl ester | COC(CCCCCCCCCCCCCC(=O)O)=O | C16H30O4
product | ω-hydroxy dodecanoic acid | yield was 37% | C(CCCCCC(=O)O)CCCCCO | C12H24O3
